US04331666
Step C: 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-7-(4-chloro-3-oxobutyramido)-3-cephem-4-carboxylic acid
7-Amino-3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-3-cephem-4-carboxylic acid (3.8 g; 0.01 mole) was suspended in anhydrous N,N-dimethylformamide (50 ml) and N,O-bis(trimethylsilyl)acetamide (8.13 g; 0.04 mole) was added. After 2 hours of stirring at room temperature almost all the starting material was dissolved. A solution of 4-chloroacetoacetyl chloride (2.35 g; approximately 0.015 mole) in anhydrous methylene chloride (20 cc) was dropped into the cooled mixture (at -30° C.). The mixture was stirred at -30° C. for 2 hours and allowed to come to room temperature within an additional hour, after which time isopropanol (40 ml) was added, in order to decompose the silylated compounds. The solvents were evaporated under reduced pressure and the oily residue was partitioned between water and ethyl acetate. The organic layer was separated, washed with aqueous sodium chloride solution, concentrated to a small volume under reduced pressure, and diethyl ether was added to complete the precipitation. The solid was collected by filtration, washed with fresh ether and dried under vacuum, thus giving 4.6 g of the title compound, which was used in the following step without further purification.

reactant | 7-Amino-3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-3-cephem-4-carboxylic acid | 0.01 mole, 3.8 g | NC1[C@@H]2N(C(=C(CS2)CSC=2C=C(C=3N(N2)N=NN3)N)C(=O)O)C1=O | C12H12N8O3S2
reactant | N,O-bis(trimethylsilyl)acetamide | 0.04 mole, 8.13 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 4-chloroacetoacetyl chloride | approximately 0.015 mole, 2.35 g | ClCC(CC(=O)Cl)=O | C4H4Cl2O2
reactant | isopropanol | 40 ml | C(C)(C)O | C3H8O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 20 cc | C(Cl)Cl | CH2Cl2
product | 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-7-(4-chloro-3-oxobutyramido)-3-cephem-4-carboxylic acid | 4.6 g | NC=1C=2N(N=C(C1)SCC=1CS[C@H]3N(C1C(=O)O)C(C3NC(CC(CCl)=O)=O)=O)N=NN2 | C16H15ClN8O5S2
